US05292762
D. Preparation of 2-phenyl4-iodopropargyl-1,3,4-thiadiazolin-5-one
To the solution of 2-phenyl-4-propargyl-1,3,4-thiadiazolin-5-one (1.6 g, 7.4 mmole) in dry acetone (25 ml) under nitrogen with magnetic stirring was added catalytic amount of silver nitrate 0.1 g, 0.58 mmole), followed by N-iodosuccinimide (1.85 g, 8.15 mmole). The reaction mixture was stirred at room temperature for 20 hours. The solid was filtered off by suction-filtration through a Celite filter. The filtrate was diluted with water (200 ml) and extracted with ethyl acetate (2×100 ml). The organic layer was washed with water (2×50 ml), brine, and dried over sodium sulfate. The drying agent was filtered off and the filtrate was concentrated to give a residue. The residue was triturated with hexane and the product was collected by suction-filtration to give 1.75 g as a semicrystalline compound. m.p.=117°-119° C. Proton NMR spectrum showed the desired compound.

reactant | 2-phenyl-4-propargyl-1,3,4-thiadiazolin-5-one | 7.4 mmole, 1.6 g | C1(=CC=CC=C1)C=1SC(N(N1)CC#C)=O | C11H8N2OS
reactant | N-iodosuccinimide | 8.15 mmole, 1.85 g | IN1C(CCC1=O)=O | C4H4INO2
reactant | acetone | 25 ml | CC(=O)C | C3H6O
catalyst | silver nitrate | 0.58 mmole, 0.1 g | [N+](=O)([O-])[O-].[Ag+]
product | 2-phenyl4-iodopropargyl-1,3,4-thiadiazolin-5-one | C1(=CC=CC=C1)C=1S(C(N(N1)I)=O)CC#C | C11H9IN2OS
